US09238667B2
Synthesis of (9H-fluoren-9-yl)methyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate
Under a nitrogen stream, into a 500 mL four-mouthed flask were added 1,1,1,3,3,3-hexamethyldisilasane (27.44 g) [mw. 161.39, 170 mmol, 1.7 eq.] and tetrahydrofuran (78 mL), and the mixture was dissolved. After cooling to −70° C., 1.6 mol/L normal butyllithium/normal hexane solution (105 mL) [168 mmol, 1.7 eq.] was added within the range of −70-−60° C. After stirring at the same temperature for 30 min, a solution (50 mL) of (9H-fluoren-9-yl)methyl 2-oxopyrrolidine-1-carboxylate (30.56 g) [mw. 307.34, 99 mmol] in tetrahydrofuran was added within the range of −78 to −70° C. After stirring at the same temperature for 90 min, methoxyacetic acid chloride (9.71 g) [mw. 108.52, 89 mmol] was added within the range of −78 to −67° C. After stirring at the same temperature for 90 min, 6 mol/L aqueous hydrochloric acid solution (55 mL) [330 mmol] was added at not more than −20° C. to quench the reaction. After warming to 25° C., water (55 mL) and toluene (110 mL) were added to allow for partitioning. The organic layer was washed with water (55 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a yellow oil. Toluene (28 mL), aniline (8.40 g) [mw. 93.13, 90 mmol], p-toluenesulfonic acid monohydrate (170.0 mg) [mw. 190.22, 0.9 mmol] and cyclohexane (84 mL) were added thereto. Dean-Stark trap was set, and the mixture was subjected to dehydration reflux for 1 hr. After cooling to 25° C., 10 w/w % aqueous citric acid solution (60 mL) and toluene (28 mL) were added to allow for partitioning. Furthermore, the organic layer was washed with 5 w/w % aqueous sodium bicarbonate solution (60 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The concentrate was purified by basic silica gel. (silica gel amount: 250 g, eluent:toluene, Rf=0.9) The effective fraction was concentrated under reduced pressure, and preserved in a freezer to allow for crystallization. A mixed solvent of ethyl acetate/diisopropyl ether=1/5 (60 mL) was added, and the mixture was aged at room temperature. The crystals were collected by filtration under reduced pressure, acetone was added, and insoluble matter was filtered off. The mother liquor was concentrated under reduced pressure, a mixed solvent of ethyl acetate/diisopropyl ether=1/4 (25 mL) was added, and the mixture was suspended by stirring. After filtration under reduced pressure, the crystals were washed with a mixed solvent of ethyl acetate/diisopropyl ether=1/4, and dried under reduced pressure at 50° C. Yellow crystals, 2.60 g, yield 5.7%, 1H-NMR (500 MHz, CDCl3, TMS) δ 2.83 (m, 2H), 3.36 (s, 3H), 3.81 (m, 2H), 4.05 (s, 2H), 4.35 (m, 1H), 4.50 (d, J=7.6 Hz, 2H), 7.10-7.17 (m, 3H), 7.29-7.36 (m, 4H), 10.60 (s, 1H). 13C-NMR (125 MHz, CDCl3, CDCl3) δ21.01, 43.63, 46.85, 58.54, 68.07, 68.25, 98.67, 119.94, 122.99, 124.52, 125.40, 127.20, 127.78, 129.24, 139.30, 141.30, 143.76, 150.63, 152.44, 169.89.

reactant | normal butyllithium normal hexane | 168 mmol, 1.6 mol/L, 105 mL, 1.7 eq. | C(CCC)[Li].CCCCCC
reactant | (9H-fluoren-9-yl)methyl 2-oxopyrrolidine-1-carboxylate | 99 mmol, 50 mL, 30.56 g | O=C1N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C19H17NO3
reactant | methoxyacetic acid chloride | 89 mmol, 9.71 g | COCC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | 330 mmol, 6 mol/L, 55 mL | Cl | ClH
reactant | aniline | 90 mmol, 8.40 g | NC1=CC=CC=C1 | C6H7N
reactant | p-toluenesulfonic acid monohydrate | 0.9 mmol, 170.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | citric acid | 60 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 78 mL | O1CCCC1 | C4H8O
solvent | toluene | 28 mL | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | 84 mL | C1CCCCC1 | C6H12
solvent | Toluene | 28 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 55 mL | O | H2O
product | (9H-fluoren-9-yl)methyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate | yield 5.7% | COCC(NC1=CC=CC=C1)=C1C(N(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C28H26N2O4
